US07348359B2
Cesium carbonate (15.7 g, 48.2 mmol) and iodomethane (1.50 ml, 24.2 mmol) were added to a solution of imidazo[1,2-a]pyridine-6-carboxylic acid (2.61 g, 16.1 mmol) in DMF (100 ml). The reaction was stirred at ambient temperature overnight, then poured into brine (100 ml) and extracted with ethyl acetate (3×100 mL). The combined organics were washed with saturated sodium bicarbonate solution (25 mL), and a 1N HCl solution (25 mL) then dried over MgSO4 and evaporated to give imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester as a yellow solid (1.1 g, 39%). 1H NMR (250 MHz, CDCl3): δ 8.96 (s, 1H), 7.8-7.6 (m, 4H), 3.98 (s, 3H). MS [EI+] 177 (M+H)+.

reactant | Cesium carbonate | 48.2 mmol, 15.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 24.2 mmol, 1.50 ml | IC | CH3I
reactant | imidazo[1,2-a]pyridine-6-carboxylic acid | 16.1 mmol, 2.61 g | N=1C=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | brine | 100 ml | [Cl-].[Na+].O
product | imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 1.1 g, 39% | COC(=O)C=1C=CC=2N(C1)C=CN2 | C9H8N2O2
